* c:\fossee\esim\library\subcircuitlibrary\l601\l601.cir

.include D.lib
.include NPN.lib
q2 net-_d8-pad2_ net-_d2-pad2_ net-_q2-pad3_ Q2N2222
q5 net-_d5-pad1_ net-_q2-pad3_ gnd Q2N2222
r2  net-_d2-pad2_ net-_q2-pad3_ 7.2k
r5  net-_q2-pad3_ gnd 3k
d8 gnd net-_d8-pad2_ 1N4148
d2 gnd net-_d2-pad2_ 1N4148
d5 net-_d5-pad1_ com 1N4148
q3 net-_d9-pad2_ net-_d3-pad2_ net-_q3-pad3_ Q2N2222
q6 net-_d6-pad1_ net-_q3-pad3_ gnd Q2N2222
r3  net-_d3-pad2_ net-_q3-pad3_ 7.2k
r6  net-_q3-pad3_ gnd 3k
d9 gnd net-_d9-pad2_ 1N4148
d3 gnd net-_d3-pad2_ 1N4148
d6 net-_d6-pad1_ com 1N4148
q1 net-_d7-pad2_ net-_d1-pad2_ net-_q1-pad3_ Q2N2222
q4 net-_d4-pad1_ net-_q1-pad3_ gnd Q2N2222
r1  net-_d1-pad2_ net-_q1-pad3_ 7.2k
r4  net-_q1-pad3_ gnd 3k
d7 gnd net-_d7-pad2_ 1N4148
d1 gnd net-_d1-pad2_ 1N4148
d4 net-_d4-pad1_ com 1N4148
q11 net-_d21-pad2_ net-_d16-pad2_ net-_q11-pad3_ Q2N2222
q14 net-_d19-pad1_ net-_q11-pad3_ gnd Q2N2222
r11  net-_d16-pad2_ net-_q11-pad3_ 7.2k
r14  net-_q11-pad3_ gnd 3k
d21 gnd net-_d21-pad2_ 1N4148
d16 gnd net-_d16-pad2_ 1N4148
d19 net-_d19-pad1_ com 1N4148
q12 net-_d23-pad2_ net-_d17-pad2_ net-_q12-pad3_ Q2N2222
q15 net-_d20-pad1_ net-_q12-pad3_ gnd Q2N2222
r12  net-_d17-pad2_ net-_q12-pad3_ 7.2k
r15  net-_q12-pad3_ gnd 3k
d23 gnd net-_d23-pad2_ 1N4148
d17 gnd net-_d17-pad2_ 1N4148
d20 net-_d20-pad1_ com 1N4148
q7 net-_d14-pad2_ net-_d10-pad2_ net-_q7-pad3_ Q2N2222
q9 net-_d12-pad1_ net-_q7-pad3_ gnd Q2N2222
r7  net-_d10-pad2_ net-_q7-pad3_ 7.2k
r9  net-_q7-pad3_ gnd 3k
d14 gnd net-_d14-pad2_ 1N4148
d10 gnd net-_d10-pad2_ 1N4148
d12 net-_d12-pad1_ com 1N4148
q13 net-_d24-pad2_ net-_d18-pad2_ net-_q13-pad3_ Q2N2222
q16 net-_d22-pad1_ net-_q13-pad3_ gnd Q2N2222
r13  net-_d18-pad2_ net-_q13-pad3_ 7.2k
r16  net-_q13-pad3_ gnd 3k
d24 gnd net-_d24-pad2_ 1N4148
d18 gnd net-_d18-pad2_ 1N4148
d22 net-_d22-pad1_ com 1N4148
q8 net-_d15-pad2_ net-_d11-pad2_ net-_q10-pad2_ Q2N2222
q10 net-_d13-pad1_ net-_q10-pad2_ gnd Q2N2222
r8  net-_d11-pad2_ net-_q10-pad2_ 7.2k
r10  net-_q10-pad2_ gnd 3k
d15 gnd net-_d15-pad2_ 1N4148
d11 gnd net-_d11-pad2_ 1N4148
d13 net-_d13-pad1_ com 1N4148
* u1  net-_d2-pad2_ net-_d3-pad2_ net-_d1-pad2_ net-_d11-pad2_ net-_d10-pad2_ net-_d16-pad2_ net-_d17-pad2_ net-_d18-pad2_ gnd com net-_d24-pad2_ net-_d23-pad2_ net-_d21-pad2_ net-_d14-pad2_ net-_d15-pad2_ net-_d7-pad2_ net-_d9-pad2_ net-_d8-pad2_ port
.tran 0.01e-00 0.1e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
